US06310049B1
Hydrazine hydrate (228 mg, 4.6 mM) and pyridinium p-toluenesulfonate (50 mg) were added to a solution of 1-(4-chlorophenyl)-3-(2-thienyl)-2-propyn-1-one (750 mg, 3.0 mM) in ethanol (30 ml), and this mixture was heated under reflux for 2 hours. After the mixture was allowed to cool to room temperature, the solvent was distilled off under reduced pressure, and the resulting residue was dissolved in ethyl acetate (50 ml). This solution was washed with a saturated aqueous solution of sodium hydrogen carbonate and a saturated aqueous solution of sodium chloride, and dried over magnesium sulfate. Thereafter, the solvent was distilled off under reduced pressure to obtain 634 mg of 3-(4-chlorophenyl)-5-(2-thienyl)-1H-pyrazole, m.p. 217° C., in an 80% yield.

reactant | Hydrazine hydrate | 4.6 mM, 228 mg | O.NN
reactant | 1-(4-chlorophenyl)-3-(2-thienyl)-2-propyn-1-one | 3.0 mM, 750 mg | ClC1=CC=C(C=C1)C(C#CC=1SC=CC1)=O | C13H7ClOS
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | pyridinium p-toluenesulfonate | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | 3-(4-chlorophenyl)-5-(2-thienyl)-1H-pyrazole | 634 mg, 80% yield | ClC1=CC=C(C=C1)C1=NNC(=C1)C=1SC=CC1 | C13H9ClN2S
